US08487108B2
To a solution of (R)-tert-butyl 3-((R)-1-(2-(tert-butyldimethylsilyloxy)ethoxy)-1-(3-chlorophenyl)butyl)piperidine-1-carboxylate (1.1 g, 2.1 mmol) in MeCN (5 mL), TBAF (1.1 g, 4.2 mmol) was added in portions at rt. The reaction mixture was stirred for 2-3 h at 50-60° C. The solvent was removed in vacuo to the crude product, which was purified by column chromatography to afford (R)-tert-butyl 3-((R)-1-(3-chlorophenyl)-1-(2-hydroxyethoxy)butyl)piperidine-1-carboxylate (750 mg, 87%). 1H NMR (CDCl3, 400 MHz) δ 7.31 (s, 1H), 7.24 (m, 2H), 7.17 (m, 1H), 4.21-3.90 (m, 2H), 3.80 (m, 2H), 3.37 (m, 2H), 2.31 (m, 1H), 2.05 (m, 3H), 1.88 (m, 4H), 1.56 (m, 1H), 1.44 (s, 9H), 1.38-1.10 (m, 2H), 0.95 (t, 3H).

reactant | (R)-tert-butyl 3-((R)-1-(2-(tert-butyldimethylsilyloxy)ethoxy)-1-(3-chlorophenyl)butyl)piperidine-1-carboxylate | 2.1 mmol, 1.1 g | [Si](C)(C)(C(C)(C)C)OCCO[C@@](CCC)(C1=CC(=CC=C1)Cl)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C28H48ClNO4Si
reactant | TBAF | 4.2 mmol, 1.1 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | MeCN | 5 mL | CC#N | C2H3N
product | (R)-tert-butyl 3-((R)-1-(3-chlorophenyl)-1-(2-hydroxyethoxy)butyl)piperidine-1-carboxylate | 750 mg, 87% | ClC=1C=C(C=CC1)[C@](CCC)(OCCO)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H34ClNO4
